US04956004
2-(4-chloro-2-fluoro-5-hydroxyphenyl)-4-methyl-1,2,4-triazine-3,5(2H,4H)-dione is reacted with potassium carbonate and 4-fluoronitrobenzene in N,N-dimethylformamide to form 2-[4-chloro-2-fluoro-5-(4-nitrophenoxy)phenyl]-4-methyl-1,2,4-triazine-3,5(2H,4H)-dione. 2-[4-chloro-2-fluoro-5-(4-nitrophenoxy)phenyl]-4-methyl-1,2,4-triazine-3,5(2H,4H)-dione is reduced with iron powder in acetic acid and water to produce 2-[5-(4-aminophenoxy)-4-chloro-2-fluorophenyl]-4-methyl-1,2,4-triazine-3,5(2H,4H)-dione. To a mixture of 2-[5-(4-aminophenoxy)-4-chloro-2-fluorophenyl]-4-methyl-1,2,4-triazine-3,5(2H,4H)-dione in hydrochloric acid is added acetone. The mixture is cooled to about 5° C., and in succession a solution of sodium nitrite in water and methyl acrylate is added. The resultant mixture is stirred for 15-30 minutes. Thereafter, copper (I) chloride is added slowly. This mixture is stirred at room temperature for approximately 30 minutes and then is poured into ice water. Extraction with an organic solvent (e.g., ethyl acetate) and subsequent purification yields methyl 2-chloro-3-[4-[2-chloro-4-fluoro-5-(4-methyl-3,5-dioxo-2H,4H-1,2,4-triazin-2-yl)-phenoxy]phenyl]-propionate.

reactant | 2-(4-chloro-2-fluoro-5-hydroxyphenyl)-4-methyl-1,2,4-triazine-3,5(2H,4H)-dione | ClC1=CC(=C(C=C1O)N1N=CC(N(C1=O)C)=O)F | C10H7ClFN3O3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 4-fluoronitrobenzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 2-[4-chloro-2-fluoro-5-(4-nitrophenoxy)phenyl]-4-methyl-1,2,4-triazine-3,5(2H,4H)-dione | ClC1=CC(=C(C=C1OC1=CC=C(C=C1)[N+](=O)[O-])N1N=CC(N(C1=O)C)=O)F | C16H10ClFN4O5
